US04006159
Preparation of 1(and 2 and 4)-Salicyloyl-s-triazole-3-carboxamide
To a cooled, stirred mixture of 2 g. of 1,2,4-triazole-3-carboxamide and 5.4 g. salicyloyl chloride in 125 ml. of anhydrous diethyl ether is added rapidly 2.75 g. of triethylamine. The cooling bath is removed and the mixture is stirred at room temperature for 22 hours. The mixture is filtered and the solid is collected and washed successively with diethyl ether, cold water, diethyl ether and dried in vacuo for 4 hours. The solid is extracted with hot, dry acetonitrile. The filtrate is reduced to about half volume by evaporation in vacuo over a warm water bath and filtered to separate a small amount of solid which separates for 2 hours. Further evaporation of the resulting filtrate to a very small volume results in the separation of a solid which is collected, washed with acetonitrile and dried yielding 210 m.p. 125°-135° C. (dec.).

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | salicyloyl chloride | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Salicyloyl-s-triazole-3-carboxamide | C(C=1C(O)=CC=CC1)(=O)C1=NC(=NN1)C(=O)N | C10H8N4O3
